US05770378
To a solution of 6-6-9-9-tetramethyl-6,9-dihydro-4H-naphtho[2,3-b][1,4]oxazin-3-one (400 mg, 1.5 mmol) [prepared by Friedel Crafts alkylation/annulation of 2H-1,4-benzoxazin-3-(4H)-one with 2,5-dichloro-2,5-dimethyl hexane in the presence of aluminum chloride at ambient temperatue (24° C.) in dichloromethane]in THF at ambient temperature was added LiA1H4 (4.6 ml, 4.6 mmol). The reaction mixture was allowed to stir and then was heated to 80° C. for 30 min. The reaction mixture was poured over saturated sodium potassium tartrate solution (100 ml), extracted with EtOAc (100 ml), dried with anhydrous MgSO4 (0.5 g), and concentrated to give 6,6,9,9-tetramethyl-3,4,6,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazine (300 mg, 70% yield of theory): 1H NMR (400 MHz, CDCl3) δ 6.70 (s, 1H, benzylic), 6.52 (s, 1H, benzylic), 4.23 (t, 2H, J=2.8, 1.6 Hz, ring CH2), 3.39 (t, 2H, J=4.4, 6.8 Hz, ring CH2), 1.63 (s, 4H, 2 CH2), 1.22 (s, 12H, 4 CH3).

reactant | 2H-1,4-benzoxazin-3-(4H)-one | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 2,5-dichloro-2,5-dimethyl hexane | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium potassium tartrate | 100 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 6,6,9,9-tetramethyl-3,4,6,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazine | 300 mg, 70% yield | CC1(C2=CC3=C(OCCN3)C=C2C(C=C1)(C)C)C | C16H21NO
